US08633196B2
23.4: tert-Butyl [(S)-2-allyloxycarbamoyl-2-(4-isobutyrylpiperazin-1-yl)ethyl]carbamate
1.4 g (4.4 mmol) of O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluroniumtetrafluoroborate and then 2.3 ml (13.1 mmol) of diisopropylethylamine are added to a solution of 1.5 g (4.4 mmol) of (S)-3-tert-butoxycarbonylamino-2-(4-isobutyrylpiperazin-1-yl)propanoic acid in 20 ml of dimethylformamide. After stirring at ambient temperature for 15 min, a solution of 500 mg (4.6 mmol) of O-allylhydroxylamine hydrochloride and of 0.8 ml (4.6 mmol) of diisopropylethylamine in 10 ml of dimethylformamide is added. The reaction medium is stirred at ambient temperature for 20 h, hydrolyzed with a saturated aqueous solution of sodium hydrogen carbonate, and then diluted with ethyl acetate. The organic phase is washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, filtered and concentrated under vacuum, 1.45 g (83%) of tert-butyl [(S)-2-allyloxycarbamoyl-2-(4-isobutyrylpiperazin-1-yl)ethyl]carbamate are obtained in the form of a colorless oil.

reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluroniumtetrafluoroborate | 4.4 mmol, 1.4 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 13.1 mmol, 2.3 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (S)-3-tert-butoxycarbonylamino-2-(4-isobutyrylpiperazin-1-yl)propanoic acid | 4.4 mmol, 1.5 g | C(C)(C)(C)OC(=O)NC[C@@H](C(=O)O)N1CCN(CC1)C(C(C)C)=O | C16H29N3O5
reactant | O-allylhydroxylamine hydrochloride | 4.6 mmol, 500 mg | Cl.C(C=C)ON
reactant | diisopropylethylamine | 4.6 mmol, 0.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl [(S)-2-allyloxycarbamoyl-2-(4-isobutyrylpiperazin-1-yl)ethyl]carbamate | C(C=C)ONC(=O)[C@H](CNC(OC(C)(C)C)=O)N1CCN(CC1)C(C(C)C)=O | C19H34N4O5
